US06835731B2
Preparation of Pyridine-2-carboxylic Acid (4-Chloromethyl-phenyl)-amide:
Reaction of Pyridine-2-carboxylic acid (4-hydroxymethyl-phenyl)amide (342 mg, 1.50 mmol), Et3N (262 μL, 1.80 mmol), and methanesulfonylchloride (128 μL, 1.65 mmol) for 2 h at reflux gave the title compound (352 mg, 95%) as a red solid. 1H NMR (300 MHz, CDCl3) δ 4.61 (s, 2H), 7.45 (d, 2H, J=8.4 Hz), 7.50 (ddd, 1H, J=7.5, 4.5, 0.9 Hz), 7.80 (d, 2H, J=8.7 Hz), 7.92 (ddd, 1H, J=7.8, 7.8, 1.6 Hz), 8.63 (d, 1H, J=6.0 Hz), 10.08 (br s, 1H).

reactant | Pyridine-2-carboxylic acid (4-hydroxymethyl-phenyl)amide | 1.50 mmol, 342 mg | OCC1=CC=C(C=C1)NC(=O)C1=NC=CC=C1 | C13H12N2O2
reactant | Et3N | 1.80 mmol, 262 μL | CCN(CC)CC | C6H15N
reactant | methanesulfonylchloride | 1.65 mmol, 128 μL | CS(=O)(=O)Cl | CH3ClO2S
product | Pyridine-2-carboxylic Acid (4-Chloromethyl-phenyl)-amide | 352 mg, 95% | ClCC1=CC=C(C=C1)NC(=O)C1=NC=CC=C1 | C13H11ClN2O
